US07919519B2
3-Fluoro-4-(5-phenoxybenzo[d]oxazol-2-yl)benzaldehyde
To a slurry of 2-fluoro-4-formylbenzoic acid (0.500 g, 3.0 mmol) in 8 mL DCM was added 2 drops N,N-dimethylformamide (0.011 g, 0.15 mmol), followed by oxalyl dichloride (0.39 mL, 4.5 mmol). After 30 min, the reaction became clear, light yellow, and homogeneous. The reaction was evaporated and dried in vacuo. The resulting solid was suspended in 10 mL THF, and 2-amino-4-phenoxyphenol (0.60 g, 3.0 mmol) was added as a solid followed by Hunig's base (0.67 mL, 3.9 mmol). The resulting brown solution became warm, and was allowed to stir for overnight. The reaction was diluted with DCM and 1N HCl. The aq. layer was extracted 1×DCM, and the organics were dried over sodium sulfate, filtered, and concentrated to give a brown solid. This was treated with 4-methylbenzenesulfonic acid hydrate (0.85 g, 4.5 mmol) and 10 mL toluene. The reaction was fitted with a water-cooled reflux condensor and drying tube, and placed in a 120° C. bath for ˜4 h, cooled and partitioned between DCM and 1N NaOH with stirring. The reaction was filtered, and the aq. layer was extracted 1×DCM. The combined organics were dried over sodium sulfate, filtered, and concentrated to give an orange oil which was purified by ISCO, 0-30% EtOAc/hexanes to give title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.10 (s, 1H), 8.45 (t, J=7.5 Hz, 1H), 7.94-8.02 (m, 2H), 7.90 (d, J=9.0 Hz, 1H), 7.54 (d, J=2.0 Hz, 1H), 7.37-7.46 (m, 2H), 7.22 (dd, J=8.8, 2.3 Hz, 1H), 7.15 (t, J=7.3 Hz, 1H), 7.04 (d, J=8.5 Hz, 2H).

reactant | 2-fluoro-4-formylbenzoic acid | 3.0 mmol, 0.500 g | FC1=C(C(=O)O)C=CC(=C1)C=O | C8H5FO3
reactant | oxalyl dichloride | 4.5 mmol, 0.39 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-4-phenoxyphenol | 3.0 mmol, 0.60 g | NC1=C(C=CC(=C1)OC1=CC=CC=C1)O | C12H11NO2
reactant | Hunig's base | 3.9 mmol, 0.67 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-methylbenzenesulfonic acid hydrate | 4.5 mmol, 0.85 g | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | DCM | 8 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | 0.15 mmol, 2 drops, 0.011 g | CN(C=O)C | C3H7NO
solvent | HCl | 1N | Cl | ClH
solvent | water | O | H2O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Fluoro-4-(5-phenoxybenzo[d]oxazol-2-yl)benzaldehyde | FC=1C=C(C=O)C=CC1C=1OC2=C(N1)C=C(C=C2)OC2=CC=CC=C2 | C20H12FNO3
